US07989461B2
Dowtherm A (50 ml) was heated to 250° C. in a 500 ml a 3-neck rbf equipped with a temperature probe, a stir bar and a reflux condenser. Diethyl 2-((1-(4-methoxybenzyl)-2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate (5.00 g, 12.5 mmol) was added in one portion. The mixture was stirred for 30 mins and then was rapidly cooled down using a stream of nitrogen. At around 140° C., a solid started to crash out. Once at RT, the mixture was diluted with hexanes (100 ml) and was allowed to stand overnight. The precipitate that formed was collected by suction filtration, washed with ether and dried to give ethyl 7-(4-methoxybenzyl)-4-hydroxy-8-oxo-7,8-dihydro-1,7-naphthyridine-3-carboxylate as a yellow solid. MS (M+H)+ 355.

reactant | Diethyl 2-((1-(4-methoxybenzyl)-2-oxo-1,2-dihydropyridin-3-ylamino)methylene)malonate | 12.5 mmol, 5.00 g | COC1=CC=C(CN2C(C(=CC=C2)NC=C(C(=O)OCC)C(=O)OCC)=O)C=C1 | C21H24N2O6
solvent | Dowtherm A | 50 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 7-(4-methoxybenzyl)-4-hydroxy-8-oxo-7,8-dihydro-1,7-naphthyridine-3-carboxylate | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)C(=O)OCC)O)C=C1 | C19H18N2O5
